US08648201B2
3 ml of 4M HCl in dioxane are added to tert-butyl 4-[6′-amino-5′-(6-methoxy-1 H-benzimidazol-2-yl)-[3,3′]bipyridinyl-6-yl]piperazine-1-carboxylate, and the mixture is stirred at room temperature for 14 h. The reaction mixture is evaporated to dryness, and water is added. The aqueous phase is adjusted to pH>10 using 2N NaOH and extracted 3× with ethyl acetate. The organic phases are dried using sodium sulfate, filtered and evaporated. The residue is purified by means of RP-HPLC and lyophilised, giving 5-(6-methoxy-1H-benzimidazol-2-yl)-6′-piperazin-1-yl-[3,3′]bipyridinyl-6-ylamine as free base; HPLC-MS [M+H]+ 402.2.

reactant | HCl | 4M, 3 ml | Cl | ClH
reactant | tert-butyl 4-[6′-amino-5′-(6-methoxy-1 H-benzimidazol-2-yl)-[3,3′]bipyridinyl-6-yl]piperazine-1-carboxylate | NC1=C(C=C(C=N1)C=1C=NC(=CC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=NC2=C(N1)C=C(C=C2)OC | C27H31N7O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(6-methoxy-1H-benzimidazol-2-yl)-6′-piperazin-1-yl-[3,3′]bipyridinyl-6-ylamine | COC=1C=CC2=C(NC(=N2)C=2C=C(C=NC2N)C=2C=NC(=CC2)N2CCNCC2)C1 | C22H23N7O
